US03965173
p-(5-chloro-2-methoxybenzamidoethyl)-benzenesulfonic acid.
N-phenethyl-5-chloro-2-methoxybenzamide (10 g.) dissolved in 25 ml. of chloroform was cooled to -10° and 19 g. of chlorosulfonic acid was added dropwise, maintaining the temperature at -10° to 0°. After the addition was complete the mixture was allowed to rise to room temperature and it was poured onto cracked ice. The crude sulfonic acid was filtered and 7.3 g. (57%) was obtained. A sample recrystallized for analysis from alcohol-acetonitrile melted at 188°-189°. Anal. Calcd. for C16H16ClNO5S: C, 51.94; H, 4.36; Cl, 9.58; N, 3.79; S, 8.67. Found: C, 50.10; H, 4.27; Cl, 9.93; N, 4.04; S, 8.84.

reactant | N-phenethyl-5-chloro-2-methoxybenzamide | 10 g | C(CC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Cl)OC)=O | C16H16ClNO2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | p-(5-chloro-2-methoxybenzamidoethyl)-benzenesulfonic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)S(=O)(=O)O)C1)OC | C16H16ClNO5S
